US04446147
1(f) 2-(1,4-Dimethyl-3-pentenyl)-2-oxoethanephosphonic Acid Dimethyl Ester
Under argon at -60° C., 274.7 ml of a 1.61-molar butyllithium solution in hexane was added dropwise to a solution of 59 g of methanephosphonic acid dimethyl ester in 400 ml of absolute tetrahydrofuran. After 15 minutes of agitation, a solution of 34.05 g of 2,5-dimethyl-4-hexenoic acid ethyl ester in 100 ml of absolute tetrahydrofuran was added dropwise thereto. The reaction mixture was allowed to warm up to room temperature within 4 hours and thereafter stirred for another 3 hours. Then the mixture was combined with 26.5 ml of glacial acetic acid and concentrated under vacuum. The residue was taken up in ether/water, the aqueous phase was combined with solid sodium chloride, and shaken out with ether. The combined organic phases were dried over magnesium sulfate and concentrated on a forced circulation evaporator. The evaporation residue was purified by column chromatography on silica gel with hexane/50-100% ethyl acetate as the mobile phase, thus producing 32 g of the desired compound.

reactant | butyllithium | 1.61-molar | C(CCC)[Li]
reactant | methanephosphonic acid dimethyl ester | 59 g | COP(OC)(=O)C | C3H9O3P
reactant | 2,5-dimethyl-4-hexenoic acid ethyl ester | 34.05 g | C(C)OC(C(CC=C(C)C)C)=O | C10H18O2
reactant | acetic acid | 26.5 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(1,4-Dimethyl-3-pentenyl)-2-oxoethanephosphonic Acid Dimethyl Ester | 32 g | COP(OC)(=O)CC(=O)C(CC=C(C)C)C | C11H21O4P
